US07384963B2
N-[2-(4,5-Dimethoxy-2-methylbenzoyl)phenyl]-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid and 2-(4,5-dimethoxy-2-methylbenzoyl)aniline using method I. LCMS; retention time 3.82 min, MH+ 548.

reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)O | C17H14N2O3
reactant | 2-(4,5-dimethoxy-2-methylbenzoyl)aniline | COC1=CC(=C(C(=O)C2=C(N)C=CC=C2)C=C1OC)C | C16H17NO3
product | N-[2-(4,5-Dimethoxy-2-methylbenzoyl)phenyl]-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | COC1=CC(=C(C(=O)C2=C(C=CC=C2)NC(=O)C2=CC=C(C=C2)C2=C(C=CC(=C2)C=2OC(=NN2)C)C)C=C1OC)C | C33H29N3O5
